US05646136
In a three-necked flask, 95 percent potassium hydroxide (200 g), tetrahydrofuran (1000 ml) and ethanol (120 ml) were stirred at 50° C. for 1 hour under a nitrogen atmosphere and then cooled to 3° C. Into the mixture prepared as above, pure dry acetylene was passed at 3° C. for 2 hours. A solution of 1,4,9(11)-androstatriene-3,17-dione (100 g) in 200 ml of dry tetrahydrofuran was added and stirred for 2 hours. The mixture was acidified with 10 percent aqueous Hcl solution, stirred under reflux for half an hour, and diluted with water. The resulting precipitated product was collected by filtration, washed with water, and dried to give 17α-ethynyl-17β-hydroxyandrosta-1,4-dien-3-one (110.3 g, purity 92.9 percent, yield 96.6 percent).

reactant | potassium hydroxide | 200 g | [OH-].[K+]
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | acetylene | C#C | C2H2
reactant | 1,4,9(11)-androstatriene-3,17-dione | 100 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)=O | C19H22O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 17α-ethynyl-17β-hydroxyandrosta-1,4-dien-3-one | 110.3 g, yield 96.6 percent | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O)O | C21H26O2
